### PR TITLE
[Merged by Bors] - feat(RingTheory/StandardSmooth): naive cotangent complex of a submersive presentation

### PR DESCRIPTION
**Pull request by chrisflav**
We show that `H¹(L_{S/R})` is trivial if `S` is `R`-standard smooth and that `Ω[S⁄R]` is free of rank `n` if `S` is `R`-standard smooth of relative dimension `n`.

In particular this shows that standard smooth implies smooth and that standard smooth of relative dimension zero implies smooth and unramified.

---

- [x] depends on: #19749 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Smooth/StandardSmoothCotangent.lean [hunk 1]
```diff
@@ -0,0 +1,300 @@
...
+  have hsp : ⊤ ≤ Submodule.span S (Set.range <| fun i : P.rels ↦
+        (Cotangent.mk ⟨P.relation i, P.relation_mem_ker i⟩ : P.toExtension.Cotangent)) := by
+    rw [← _root_.eq_top_iff]
+    apply Submodule.map_injective_of_injective P.cotangentComplexAux_injective
+    rw [Submodule.map_top, LinearMap.range_eq_top_of_surjective _ P.cotangentComplexAux_surjective]
+    rw [Submodule.map_span, ← Set.range_comp]
+    convert P.basisDeriv.span_eq
+    ext i j
+    simp only [Function.comp_apply, basisDeriv_apply, P.cotangentComplexAux_apply]
+  Basis.mk hli hsp
```
Comment (erdOne) [inline Mathlib/RingTheory/Smooth/StandardSmoothCotangent.lean:159]:
```suggestion
  ⟨cotangentEquiv P ≪≫ₗ (Finsupp.linearEquivFunOnFinite S S P.rels).symm⟩
```

File: Mathlib/RingTheory/Smooth/StandardSmoothCotangent.lean [hunk 2]
```diff
@@ -0,0 +1,300 @@
...
+  P.basisKaehlerOfIsCompl Subtype.val_injective <| by
+    rw [Subtype.range_coe_subtype]
+    exact IsCompl.symm isCompl_compl
+
+/-- If `P` is a submersive presentation of `S` as an `R`-algebra, `Ω[S⁄R]` is free. -/
+@[stacks 00T7 "(2)"]
+theorem free_kaehlerDifferential (P : SubmersivePresentation R S) :
+    Module.Free S (Ω[S⁄R]) :=
+  Module.Free.of_basis P.basisKaehler
+
```
Comment (erdOne) [inline Mathlib/RingTheory/Smooth/StandardSmoothCotangent.lean:240]:
```suggestion

attribute [local instance] Fintype.ofFinite in
```

File: Mathlib/RingTheory/Smooth/StandardSmoothCotangent.lean [hunk 3]
```diff
@@ -0,0 +1,300 @@
...
+/-- If `P` is a submersive presentation of `S` as an `R`-algebra and `S` is nontrivial,
+`Ω[S⁄R]` is free of rank the dimension of `P`, i.e. the number of generators minus the number
+of relations. -/
+theorem rank_kaehlerDifferential [Nontrivial S]
+    (P : SubmersivePresentation R S) : Module.rank S (Ω[S⁄R]) = P.dimension := by
+  haveI : Fintype ((Set.range P.map)ᶜ : Set _) := Fintype.ofFinite _
+  haveI : Fintype (Set.range P.map) := Fintype.ofFinite _
+  haveI : Fintype P.vars := Fintype.ofFinite _
+  haveI : Fintype P.rels := Fintype.ofFinite _
```
Comment (erdOne) [inline Mathlib/RingTheory/Smooth/StandardSmoothCotangent.lean:249]:
```suggestion
```

File: Mathlib/RingTheory/Smooth/StandardSmoothCotangent.lean [hunk 4]
```diff
@@ -0,0 +1,278 @@
...
+  have heq2 : ∑ i ∈ c.support,
+      (aeval P.val) (c i) • (fun j ↦ (aeval P.val) (pderiv (P.map j) (P.relation i))) = 0 := by
+    ext j
+    simp only [Finset.sum_apply, Pi.smul_apply, smul_eq_mul, Pi.zero_apply]
+    apply heq
+  have (i : P.rels) : (aeval P.val) (c i) = 0 := by
+    have := P.linearIndependent_aeval_val_pderiv_relation
+    rw [linearIndependent_iff''] at this
+    have := this c.support (fun i ↦ (aeval P.val) (c i))
+      (by intro i; simp; intro h; simp [h]) (heq2)
```
Comment (erdOne) [inline Mathlib/RingTheory/Smooth/StandardSmoothCotangent.lean:99]:
```suggestion
      (by intro i; simp; intro h; simp [h]) heq2
```
This `simp` seems non-terminal?

File: Mathlib/RingTheory/Smooth/StandardSmoothCotangent.lean [hunk 5]
```diff
@@ -0,0 +1,278 @@
...
+    exact this i
+  show _ ∈ P.ker ^ 2
+  rw [← hc]
+  apply Ideal.sum_mem
+  intro i hi
+  simp
```
Comment (erdOne) [inline Mathlib/RingTheory/Smooth/StandardSmoothCotangent.lean:105]: Same here.

File: Mathlib/RingTheory/Smooth/StandardSmoothCotangent.lean [hunk 6]
```diff
@@ -0,0 +1,278 @@
...
+    [IsStandardSmoothOfRelativeDimension n R S] :
+    Module.rank S (Ω[S⁄R]) = n := by
+  obtain ⟨⟨P, hP⟩⟩ := ‹IsStandardSmoothOfRelativeDimension n R S›
+  rw [P.rank_kaehlerDifferential, hP]
+
+instance IsStandardSmoothOfRelationDimension.subsingleton_kaehlerDifferential
+    [IsStandardSmoothOfRelativeDimension 0 R S] : Subsingleton (Ω[S⁄R]) := by
+  wlog h : Nontrivial S
+  · rw [not_nontrivial_iff_subsingleton] at h
+    apply Module.subsingleton S
```
Comment (erdOne) [inline Mathlib/RingTheory/Smooth/StandardSmoothCotangent.lean:256]:
```suggestion
  cases subsingleton_or_nontrivial S
  · exact Module.subsingleton S _
```

**Comment by chrisflav** [comment]
Anything else I should address here? @erdOne

File: Mathlib/RingTheory/Smooth/StandardSmoothCotangent.lean [hunk 7]
```diff
@@ -0,0 +1,276 @@
...
+    rw [Algebra.FormallySmooth.iff_subsingleton_and_projective]
+    exact ⟨inferInstance, inferInstance⟩
+
+/-- If `S` is `R`-standard smooth of relative dimension zero, it is étale. -/
+instance [IsStandardSmoothOfRelativeDimension 0 R S] : Etale R S where
+  finitePresentation := (IsStandardSmoothOfRelativeDimension.isStandardSmooth 0).finitePresentation
+  formallyEtale :=
+    have : IsStandardSmooth R S := IsStandardSmoothOfRelativeDimension.isStandardSmooth 0
+    have : FormallyUnramified R S := ⟨inferInstance⟩
+    Algebra.FormallyEtale.of_unramified_and_smooth
```
Comment (erdOne) [inline Mathlib/RingTheory/Smooth/StandardSmoothCotangent.lean:274]: These should have lowered priorities

File: Mathlib/RingTheory/Smooth/StandardSmoothCotangent.lean [hunk 8]
```diff
@@ -0,0 +1,276 @@
...
+  intro x hx
+  obtain ⟨(x : P.ker), rfl⟩ := Cotangent.mk_surjective x
+  rw [Submodule.mem_bot, Cotangent.mk_eq_zero_iff]
+  rw [LinearMap.mem_ker, P.cotangentComplexAux_zero_iff] at hx
+  have : x.val ∈ Ideal.span (Set.range P.relation) := by
+    rw [P.span_range_relation_eq_ker]
+    exact x.property
+  obtain ⟨c, hc⟩ := Finsupp.mem_ideal_span_range_iff_exists_finsupp.mp this
+  have heq (i : P.rels) :
+      (aeval P.val) (pderiv (P.map i) <| c.sum fun i a ↦ a * P.relation i) = 0 := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Smooth/StandardSmoothCotangent.lean:85]:
```suggestion
      aeval P.val (pderiv (P.map i) <| c.sum fun i a ↦ a * P.relation i) = 0 := by
```

File: Mathlib/RingTheory/Smooth/StandardSmoothCotangent.lean [hunk 9]
```diff
@@ -0,0 +1,276 @@
...
+    rw [hc]
+    apply hx
+  simp only [Finsupp.sum, map_sum, Derivation.leibniz, smul_eq_mul, map_add, map_mul,
+    Presentation.aeval_val_relation, zero_mul, add_zero] at heq
+  have heq2 : ∑ i ∈ c.support,
+      (aeval P.val) (c i) • (fun j ↦ (aeval P.val) (pderiv (P.map j) (P.relation i))) = 0 := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Smooth/StandardSmoothCotangent.lean:91]:
```suggestion
      aeval P.val (c i) • (fun j ↦ aeval P.val (pderiv (P.map j) (P.relation i))) = 0 := by
```

File: Mathlib/RingTheory/Smooth/StandardSmoothCotangent.lean [hunk 10]
```diff
@@ -0,0 +1,276 @@
...
+    ext j
+    simp only [Finset.sum_apply, Pi.smul_apply, smul_eq_mul, Pi.zero_apply]
+    apply heq
+  have (i : P.rels) : (aeval P.val) (c i) = 0 := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Smooth/StandardSmoothCotangent.lean:95]:
```suggestion
  have (i : P.rels) : aeval P.val (c i) = 0 := by
```

File: Mathlib/RingTheory/Smooth/StandardSmoothCotangent.lean [hunk 11]
```diff
@@ -0,0 +1,276 @@
...
+    have := P.linearIndependent_aeval_val_pderiv_relation
+    rw [linearIndependent_iff''] at this
+    have := this c.support (fun i ↦ (aeval P.val) (c i))
```
Comment (erdOne) [inline Mathlib/RingTheory/Smooth/StandardSmoothCotangent.lean:98]:
```suggestion
    have := this c.support (fun i ↦ aeval P.val (c i))
```

**Review by erdOne — APPROVED** [review]
LGTM
final nitpicks

File: Mathlib/RingTheory/Smooth/StandardSmoothCotangent.lean [hunk 12]
```diff
@@ -0,0 +1,276 @@
...
+
+variable {R S : Type u} [CommRing R] [CommRing S] [Algebra R S]
+
+instance [IsStandardSmooth R S] : Smooth R S where
+  formallySmooth := by
+    rw [Algebra.FormallySmooth.iff_subsingleton_and_projective]
+    exact ⟨inferInstance, inferInstance⟩
+
+/-- If `S` is `R`-standard smooth of relative dimension zero, it is étale. -/
+instance [IsStandardSmoothOfRelativeDimension 0 R S] : Etale R S where
```
Comment (chrisflav) [inline Mathlib/RingTheory/Smooth/StandardSmoothCotangent.lean:269]:
```suggestion
instance (priority := 900) [IsStandardSmooth R S] : Smooth R S where
  formallySmooth := by
    rw [Algebra.FormallySmooth.iff_subsingleton_and_projective]
    exact ⟨inferInstance, inferInstance⟩

/-- If `S` is `R`-standard smooth of relative dimension zero, it is étale. -/
instance (priority := 900) [IsStandardSmoothOfRelativeDimension 0 R S] : Etale R S where
```

**Comment by erdOne** [comment]
Thanks!
maintainer merge
NB this file does not import the slow Jacobi zariski file so merging this will not interfere the investigations on that file.

**Comment by riccardobrasca** [comment]
Thanks!

bors merge

File: Mathlib/RingTheory/Smooth/StandardSmoothCotangent.lean (hunk 1 above)
Comment (chrisflav) [reply Mathlib/RingTheory/Smooth/StandardSmoothCotangent.lean]: I believe this was a mistake, that I only now noticed when fixing dependent PRs: These two bases are not equal. The one you suggested has as basis vectors the preimages of the standard basis of `P.rels →₀ S`, but I want (and the docstring claims) the images of `P.relation i` as the basis vectors.
Still my proof was horrible, see #23776 for a fix.
